US05134152
2-(4-Fluorophenyl)-3,3-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane
Following a procedure similar to that described in Example 39, but using 2-methylpropene and 4'-fluoro-2-(1H-1,2,4-triazol-1-yl)acetophenone, the title compound, melting at 110° C., was obtained in a 2% yield.

reactant | 2-methylpropene | CC(=C)C | C4H8
reactant | 4'-fluoro-2-(1H-1,2,4-triazol-1-yl)acetophenone | FC1=CC=C(C=C1)C(CN1N=CN=C1)=O | C10H8FN3O
product | 2-(4-Fluorophenyl)-3,3-dimethyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxetane | 2% yield | FC1=CC=C(C=C1)C1(OCC1(C)C)CN1N=CN=C1 | C14H16FN3O
